US05338739
To a suspension of petroleum ether washed sodium hydride (80% oil dispersion, 0.94 g) in dry dimethylformamide (30 ml) was added 5-(3-methoxyphenyl)-2-pyrrolidinone (2.5 g) followed by 4-picolyl chloride hydrochloride (2.3 g) at ambient temperature, under nitrogen. The solution was warmed at 60° C. for 0.5 hr and allowed to cool to ambient temperature. The reaction mixture was quenched with ammonium chloride solution, water, and ethyl acetate. The layers were separated and the aqueous phase was extracted with ethyl acetate (5 times). The combined organic extracts were concentrated, the residue was diluted with a small volume of ethyl acetate, and the solution was washed with water (2 times). The organic phase was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated to give 2.9 g (78%) of 1-(4-pyridinylmethyl)-5-(3-methoxyphenyl)-2-pyrrolidinone. 1-(4-pyridinylmethyl)-5-(3-methoxyphenyl)-2-pyrrolidinone (2.9 g) in 48% hydrobromic acid (40 ml) was heated at 100° C. for 5.5 hrs. The reaction mixture was cooled to ambient temperature, neutralized with saturated sodium bicarbonate solution, and extracted with dichloromethane (3 times). The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and the filtration was concentrated. The residue was purified by flash column chromatography (silica gel, ether/0-20% methanol). The appropriate fractions were collected and concentrated to give 2.3 g (81%) of 1-(4-pyridinylmethyl)-5-(3-hydroxyphenyl)-2-pyrrolidinone.

reactant | 1-(4-pyridinylmethyl)-5-(3-methoxyphenyl)-2-pyrrolidinone | 2.9 g | N1=CC=C(C=C1)CN1C(CCC1C1=CC(=CC=C1)OC)=O | C17H18N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 40 ml | Br | BrH
product | 1-(4-pyridinylmethyl)-5-(3-hydroxyphenyl)-2-pyrrolidinone | 2.3 g, 81% | N1=CC=C(C=C1)CN1C(CCC1C1=CC(=CC=C1)O)=O | C16H16N2O2
